US09284323B2
Preparation of (S)-ethyl 2-(6-bromo-3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-hydroxyacetate:
To a solution of ethyl 2-(6-bromo-3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-oxoacetate (2 g, 4.26 mmol) and (R)-2-methyl-CBS-oxazaborolidine (0.236 g, 0.85 mmol) in anhydrous toluene at −40° C. was added a solution of catecholborane (0.615 mL, 5.79 mmol) in toluene (10 mL) over 40 minutes. The reaction mixture was stirred for 1 hour and quenched with sodium carbonate solution, diluted with ethyl acetate and stirred vigorously for 20 minutes at −20° C., then at room temperature for 45 minutes. The aqueous layer was removed and the organic layer was washed with sodium carbonate solution (4×), saturated ammonium chloride solution, dried (MgSO4), filtered, concentrated and purified by flash column chromatography (silica gel, 0 to 20% ethyl acetate/hexanes) to give the desired compound.

reactant | ethyl 2-(6-bromo-3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-oxoacetate | 4.26 mmol, 2 g | BrC=1C=C2C=C(C(=C(C2=CC1)OS(=O)(=O)C(F)(F)F)C(C(=O)OCC)=O)C | C16H12BrF3O6S
reactant | (R)-2-methyl-CBS-oxazaborolidine | 0.85 mmol, 0.236 g | B1(N2CCC[C@@H]2C(O1)(C3=CC=CC=C3)C4=CC=CC=C4)C | C18H20BNO
reactant | catecholborane | 5.79 mmol, 0.615 mL | [B]1OC2=CC=CC=C2O1 | C6H4BO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-ethyl 2-(6-bromo-3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-hydroxyacetate | BrC=1C=C2C=C(C(=C(C2=CC1)OS(=O)(=O)C(F)(F)F)[C@@H](C(=O)OCC)O)C | C16H14BrF3O6S
